US04755212
Preparation of 2-benzylthio-5,6,7-trimethyl-1,2,4-triazolo[1,5-a]pyrimidine
A solution of 51.6 g (0.250 mol) of 3-amino-5-benzylthio-1,2,4-triazole and 28.5 g (0.250 mol) of 3-methyl-2,4-pentanedione in 350 ml of glacial acetic acid was heated at reflux for 17 hours. Upon cooling to room temperature, the reaction mixture was poured onto ice. The pale yellow solid which separated was collected by filtration, washed with water and dried in vacuo to yield 67.1 g (94%) of the desired product as a pale yellow solid, m.p. 133.5°-135° C. The IR and 1H NMR spectra were consistent with the assigned structure.

reactant | 3-amino-5-benzylthio-1,2,4-triazole | 0.250 mol, 51.6 g | NC1=NNC(=N1)SCC1=CC=CC=C1 | C9H10N4S
reactant | 3-methyl-2,4-pentanedione | 0.250 mol, 28.5 g | CC(C(C)=O)C(C)=O | C6H10O2
solvent | acetic acid | 350 ml | C(C)(=O)O | C2H4O2
product | 2-benzylthio-5,6,7-trimethyl-1,2,4-triazolo[1,5-a]pyrimidine | 67.1 g, 94% | C(C1=CC=CC=C1)SC1=NN2C(N=C(C(=C2C)C)C)=N1 | C15H16N4S
